US07645760B2
(5-Chloro-2-{(E)-3-[(R)-2-ethyl-4-(4-fluoro-benzyl)-piperazin-1-yl]-3-oxo-propenyl}-phenyl)-urea.
(R)-3-Ethyl-1-(4-fluorobenzyl)-piperazine (88.8 mg, 0.4 mmol), EDCI (152 mg, 0.8 mmol), HOBT (110 mg, 0.8 mmol) and (E)-3-(4-Chloro-2-ureido-phenyl-acrylic acid (96 mg, 0.4 mmol) were dissolved in 5 ml DCM and this mixture was stirred at room temperature over night. The mixture was diluted with 50 ml DCM and extracted 3 times with water and once with saturated sodium chloride solution. The title compound was purified by chromatography (SiO2, ethyl acetate/MeOH/NH3conc, 98/2/0.2) and was isolated as pale solid (60 mg, 34%)

reactant | (R)-3-Ethyl-1-(4-fluorobenzyl)-piperazine | 0.4 mmol, 88.8 mg | C(C)[C@@H]1CN(CCN1)CC1=CC=C(C=C1)F | C13H19FN2
reactant | EDCI | 0.8 mmol, 152 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.8 mmol, 110 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-Chloro-2-ureido-phenyl-acrylic acid | 0.4 mmol, 96 mg | ClC1=CC(=C(C=C1)C(C(=O)O)=C)NC(=O)N | C10H9ClN2O3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (5-Chloro-2-{(E)-3-[(R)-2-ethyl-4-(4-fluoro-benzyl)-piperazin-1-yl]-3-oxo-propenyl}-phenyl)-urea | 60 mg, 34% | ClC=1C=CC(=C(C1)NC(=O)N)\C=C\C(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)CC | C23H26ClFN4O2
